US04499094
Operations are carried out as for Example 7, starting from 5 g of 1-(4-methylphenyl) isoquinoline 3-carboxylic acid, 2.18 g of triethylamine, 2.39 g of ethyl chloroformate and 1.83 g of diethylamine in 190 ml of chloroform. 3.25 g of N,N-diethyl 1-(4-methylphenyl) isoquinoline 3-carboxamide melting at 113° C., are obtained.

reactant | 1-(4-methylphenyl) isoquinoline 3-carboxylic acid | 5 g | CC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C17H13NO2
reactant | triethylamine | 2.18 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.39 g | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 1.83 g | C(C)NCC | C4H11N
solvent | chloroform | 190 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl 1-(4-methylphenyl) isoquinoline 3-carboxamide | 3.25 g | C(C)N(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=CC=C(C=C1)C)CC | C21H22N2O
